US04039551
In the manner given in Example 2, a solution of hydrazine hydrate in ethanol is reacted at 65° C. with 8-trifluoromethyl-6-(o-chlorophenyl)-1-[(phthalimidooxy)methyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine to give 1-[(aminooxy)methyl]-8-trifluoromethyl-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | hydrazine hydrate | O.NN
reactant | 8-trifluoromethyl-6-(o-chlorophenyl)-1-[(phthalimidooxy)methyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=NN3)CON3C(C=2C(C3=O)=CC=CC2)=O)C2=C(C=CC=C2)Cl)C1)(F)F | C26H15ClF3N5O3
solvent | ethanol | C(C)O | C2H6O
product | 1-[(aminooxy)methyl]-8-trifluoromethyl-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | NOCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)C(F)(F)F | C18H13ClF3N5O
